US07576135B2
2-(2,4-difluoroanilino)-2-oxoacetic acid methyl ester
In a manner similar to that employed in Referential Example 242, the title compound was prepared from 2,4-difluoroaniline and methyl chlorooxoacetate.

reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-(2,4-difluoroanilino)-2-oxoacetic acid methyl ester | COC(C(=O)NC1=C(C=C(C=C1)F)F)=O | C9H7F2NO3
